T1 (net15 net15 net15 0) pfet L=4.15E-6 W=3.59E-6
T2 (0 net11 net11 0) pfet L=0.55E-6 W=8.52E-6
T3 (net12 0 0 0) pfet L=9.11E-6 W=6.26E-6
C4 (net13 net4) C=5.9E-5
T5 (net1 0 0 0) nfet L=0.86E-6 W=5.14E-6
T6 (net1 net1 net1 0) nfet L=8.90E-6 W=7.68E-6
T7 (net7 net11 net11 0) nfet L=8.88E-6 W=3.71E-6
T8 (net15 net7 net7 0) pfet L=9.22E-6 W=5.96E-6
R9 (net4 net17) R=6.3E2
T10 (0 net18 net18 0) nfet L=1.06E-6 W=1.46E-6
R11 ( vdd! net12)  R=9.6E0
T12 ( net12 net12 net3 0)  nfet  L=7.54E-6 W=1.30E-6
T13 ( net3 net16 0 0)  nfet  L=7.54E-6 W=1.30E-6
T14 ( net16 net16 0 0)  nfet  L=7.54E-6 W=1.30E-6
T15 ( net13 net12 net16 0)  nfet  L=7.54E-6 W=1.30E-6
T16 (net18 net19 net19 0) pfet L=6.28E-6 W=3.13E-6

