T1 (net14 vdd! vdd! 0) pfet L=9.14E-6 W=6.97E-6
R2 (net13 net14) R=4.4E3
T3 (net5 net9 net9 0) pfet L=0.13E-6 W=2.31E-6
C4 (vdd! net6) C=9.5E-12
C5 (net14 0) C=1.6E-7
T6 (net9 net3 net3 0) nfet L=3.02E-6 W=1.18E-6
T7 (net7 net2 net2 0) nfet L=3.66E-6 W=9.88E-6
C8 (net3 net1) C=2.0E-6
R9 (vdd! net3) R=9.7E4
T10 (net1 0 0 0) pfet L=3.12E-6 W=4.14E-6
C11 (net11 net6) C=5.0E-6
R12 (net4 net12) R=3.0E0
T13 (net4 net5 net5 0) pfet L=6.46E-6 W=3.53E-6
R14 ( vdd! net3)  R=0.6E5
T15 ( net3 net6 vdd! vdd!)  pfet  L=2.00E-6 W=8.97E-6
T16 ( net7 net6 vdd! vdd!)  pfet  L=2.00E-6 W=8.97E-6
T17 ( 0 net3 net6 vdd!)  pfet  L=2.00E-6 W=8.97E-6
T18 (net12 net5 net5 0) pfet L=7.55E-6 W=5.30E-6

