T1 (net12 net9 net9 0) nfet L=0.63E-6 W=2.13E-6
R2 (net5 net9) R=2.8E3
T3 (vdd! net14 net14 0) pfet L=4.90E-6 W=5.31E-6
R4 (net9 net3) R=0.9E4
C5 (vdd! net11) C=6.0E-13
T6 (net2 0 0 0) nfet L=3.32E-6 W=5.07E-6
R7 (net10 net14) R=1.3E1
R8 ( net9 net2)  R=0.2E0
T9 ( net2 net12 0 0)  nfet  L=1.38E-6 W=3.32E-6
T10 ( net5 net12 0 0)  nfet  L=1.38E-6 W=3.32E-6
T11 ( net1 net2 net5 0)  nfet  L=1.38E-6 W=3.32E-6
C12 (net1 net9) C=1.1E-9
T13 (net9 net9 net9 0) pfet L=1.47E-6 W=0.21E-6
T14 (net13 net1 net1 0) nfet L=5.03E-6 W=2.30E-6
R15 ( net3 net10)  R=4.7E3
T16 ( net10 net15 0 0)  nfet  L=1.52E-6 W=2.06E-6
T17 ( net9 net15 0 0)  nfet  L=1.52E-6 W=2.06E-6
T18 ( net13 net10 net9 0)  nfet  L=1.52E-6 W=2.06E-6
C19 (net7 net13) C=2.0E-9
C20 (net7 net3) C=2.9E-7
R21 (net13 net6) R=3.9E0
R22 (net6 net13) R=6.9E1
R23 (net11 0) R=1.3E3
C24 (net3 net7) C=8.6E-7
C25 (net3 net1) C=0.3E-11
T26 (net11 net4 net4 0) nfet L=3.92E-6 W=8.13E-6
T27 (net3 net14 net14 0) pfet L=9.87E-6 W=0.12E-6
T28 (net4 net6 net6 0) nfet L=4.92E-6 W=9.25E-6
R29 (net3 net4) R=7.2E5
R30 (net11 net6) R=0.7E5
R31 (net6 net11) R=7.9E2
T32 (vdd! net3 net3 0) pfet L=3.77E-6 W=4.98E-6
C33 (net4 net8) C=6.2E-11
T34 (net4 net4 net4 0) nfet L=4.81E-6 W=2.13E-6
T35 (net7 net6 net6 0) nfet L=2.67E-6 W=6.35E-6
R36 (net1 net11) R=9.0E1
T37 (net8 0 0 0) nfet L=8.92E-6 W=5.86E-6
C38 (net7 net13) C=4.5E-11
T39 (net6 net7 net7 0) nfet L=4.49E-6 W=3.45E-6
T40 (net14 0 0 0) pfet L=9.93E-6 W=7.37E-6
T41 (net7 net8 net8 0) pfet L=0.54E-6 W=0.82E-6
T42 (net11 net3 net3 0) nfet L=4.05E-6 W=2.89E-6
T43 (net14 net4 net4 0) pfet L=1.16E-6 W=3.13E-6
T44 (net4 net3 net3 0) nfet L=1.85E-6 W=0.43E-6
C45 (net11 0) C=6.3E-13
R46 (net7 net3) R=4.9E5
T47 (net11 0 0 0) nfet L=3.08E-6 W=3.25E-6
T48 (net13 net6 net6 0) nfet L=0.73E-6 W=0.15E-6
T49 (net11 net11 net11 0) nfet L=6.32E-6 W=7.48E-6
C50 (0 net7) C=6.5E-7

