R1 (net17 net14) R=3.3E4
R2 (net17 net3) R=7.0E4
T3 (net7 net17 net17 0) pfet L=0.24E-6 W=9.06E-6
R4 (net13 net4) R=8.9E5
R5 (net9 net16) R=3.5E5
T6 (net2 net3 net3 0) pfet L=3.01E-6 W=2.48E-6
C7 (net5 net4) C=2.5E-12
C8 (net3 net14) C=1.2E-8
T9 (net13 net15 net15 0) nfet L=5.58E-6 W=8.22E-6
R10 (net9 net6) R=7.7E0
T11 (net11 net17 net17 0) pfet L=9.63E-6 W=4.34E-6
R12 (net2 net14) R=1.4E5
C13 (net11 vdd!) C=7.1E-7
T14 (net7 net7 net7 0) nfet L=9.69E-6 W=6.40E-6
T15 (net12 0 0 0) pfet L=4.25E-6 W=3.04E-6
R16 ( net3 net11)  R=3.0E4
T17 ( net11 net11 net13 vdd!)  pfet  L=7.56E-6 W=3.23E-6
T18 ( net13 net17 vdd! vdd!)  pfet  L=7.56E-6 W=3.23E-6
T19 ( net17 net17 vdd! vdd!)  pfet  L=7.56E-6 W=3.23E-6
T20 ( net7 net11 net17 vdd!)  pfet  L=7.56E-6 W=3.23E-6
T21 (net16 net14 net14 0) nfet L=4.09E-6 W=8.23E-6
R22 (vdd! net16) R=1.2E5
R23 (net3 vdd!) R=9.8E3
T24 (net10 net3 net3 0) pfet L=0.92E-6 W=1.61E-6
R25 ( net12 net14)  R=3.9E3
T26 ( net14 net14 net10 vdd!)  pfet  L=2.66E-6 W=2.19E-6
T27 ( net10 net3 vdd! vdd!)  pfet  L=2.66E-6 W=2.19E-6
T28 ( net3 net3 vdd! vdd!)  pfet  L=2.66E-6 W=2.19E-6
T29 ( net16 net14 net3 vdd!)  pfet  L=2.66E-6 W=2.19E-6
C30 (net4 net6) C=7.6E-7
C31 (net12 net6) C=2.0E-14
R32 (0 net8) R=9.2E4
R33 (net7 net15) R=8.5E4
T34 (0 net6 net6 0) pfet L=1.31E-6 W=7.99E-6
T35 (net8 net16 net16 0) pfet L=5.59E-6 W=6.00E-6
R36 (net2 net1) R=6.5E6
T37 (net8 net4 net4 0) nfet L=1.05E-6 W=2.37E-6
T38 (net12 0 0 0) pfet L=3.22E-6 W=8.39E-6
T39 (net5 net2 net2 0) nfet L=8.52E-6 W=1.68E-6
T40 (net7 net1 net1 0) pfet L=6.15E-6 W=7.15E-6
R41 (0 net4) R=1.7E2
C42 (net16 net7) C=8.3E-11
T43 (vdd! 0 0 0) pfet L=6.34E-6 W=6.09E-6
C44 (net8 net2) C=8.3E-10
T45 (net15 net15 net15 0) pfet L=4.52E-6 W=1.25E-6
T46 (net16 net15 net15 0) pfet L=9.61E-6 W=4.66E-6

