R1 ( net12 net4)  R=0.7E5
T2 ( net4 net1 0 0)  nfet  L=3.93E-6 W=1.75E-6
T3 ( net3 net1 0 0)  nfet  L=3.93E-6 W=1.75E-6
T4 ( net13 net4 net3 0)  nfet  L=3.93E-6 W=1.75E-6
R5 (vdd! net6) R=0.6E0
T6 (net7 net8 net8 0) nfet L=9.78E-6 W=8.45E-6
T7 (net10 net8 net8 0) pfet L=6.38E-6 W=9.97E-6
T8 ( net8 net8 0 0)  nfet  L=8.88E-6 W=9.03E-6
T9 ( net2 net8 0 0)  nfet  L=8.88E-6 W=9.03E-6
R10 ( net2 net10)  R=4.6E5
C11 (net12 0) C=7.6E-5
R12 (net6 vdd!) R=3.4E5
R13 (net7 net8) R=1.4E6
T14 (net12 net12 net12 0) nfet L=3.24E-6 W=2.22E-6
T15 (net8 net10 net10 0) nfet L=0.68E-6 W=2.22E-6
T16 (net5 net11 net11 0) nfet L=8.32E-6 W=0.41E-6
C17 (net9 net6) C=4.7E-12
R18 (net10 net11) R=9.1E3
C19 (net13 net9) C=4.9E-9
C20 (net10 net9) C=9.3E-13

