R1 (0 net1) R=1.9E0
R2 (net9 net1) R=2.6E2
T3 (net9 net13 net13 0) nfet L=1.10E-6 W=6.78E-6
T4 ( net7 net7 vdd! vdd!)  pfet  L=4.41E-6 W=9.28E-6
T5 ( net9 net7 vdd! vdd!)  pfet  L=4.41E-6 W=9.28E-6
R6 ( net9 net11)  R=3.2E6
T7 (net3 net12 net12 0) nfet L=5.23E-6 W=4.61E-6
T8 (net14 net2 net2 0) pfet L=9.40E-6 W=6.90E-6
T9 (net11 net2 net2 0) nfet L=0.65E-6 W=5.28E-6
C10 (net3 net4) C=7.2E-13
C11 (net13 net8) C=4.8E-10
C12 (net7 net2) C=9.2E-13
R13 (net11 net14) R=2.8E3
T14 (net3 net4 net4 0) pfet L=2.42E-6 W=6.33E-6
R15 (net1 net7) R=9.7E4
T16 (net13 vdd! vdd! 0) nfet L=0.53E-6 W=1.88E-6
R17 (net12 net13) R=4.1E6
R18 (net5 net13) R=4.2E5
T19 (net1 net10 net10 0) nfet L=9.26E-6 W=3.79E-6
T20 (net8 net2 net2 0) pfet L=5.78E-6 W=1.77E-6
R21 (net2 net6) R=4.8E2
C22 (net13 net10) C=6.5E-9
T23 (net12 net6 net6 0) nfet L=1.49E-6 W=5.04E-6
R24 (net12 net3) R=0.4E6
T25 (net1 net10 net10 0) pfet L=6.17E-6 W=3.40E-6
R26 (net12 net2) R=4.5E1
T27 (net13 net10 net10 0) nfet L=8.11E-6 W=7.84E-6
C28 (net6 net5) C=2.1E-7
T29 (vdd! net2 net2 0) nfet L=8.23E-6 W=3.41E-6
C30 (net10 net4) C=9.7E-13
R31 ( net1 net11)  R=4.1E3
T32 ( net11 net11 net8 vdd!)  pfet  L=0.36E-6 W=9.86E-6
T33 ( net8 net5 vdd! vdd!)  pfet  L=0.36E-6 W=9.86E-6
T34 ( net5 net5 vdd! vdd!)  pfet  L=0.36E-6 W=9.86E-6
T35 ( net4 net11 net5 vdd!)  pfet  L=0.36E-6 W=9.86E-6
T36 (net13 net14 net14 0) nfet L=2.32E-6 W=9.57E-6
T37 (net7 net7 net7 0) nfet L=0.21E-6 W=9.47E-6
T38 (net4 net10 net10 0) pfet L=6.86E-6 W=8.03E-6
T39 (net4 0 0 0) nfet L=8.44E-6 W=2.14E-6
T40 (net7 net3 net3 0) pfet L=0.68E-6 W=7.22E-6
T41 (net10 net10 net10 0) pfet L=2.38E-6 W=5.93E-6
T42 (net12 net7 net7 0) pfet L=3.61E-6 W=3.52E-6
C43 (net6 net10) C=7.6E-9
C44 (net13 net1) C=6.7E-7
T45 (net13 net4 net4 0) pfet L=0.93E-6 W=0.92E-6
R46 (net14 net2) R=8.7E5
C47 (net2 net14) C=5.1E-14
T48 (net12 net10 net10 0) pfet L=3.96E-6 W=0.10E-6

