C1 (net1 net7) C=7.8E-6
T2 (net8 net1 net1 0) nfet L=2.25E-6 W=8.16E-6
C3 (net1 net10) C=3.6E-12
T4 ( net5 net5 0 0)  nfet  L=5.61E-6 W=7.88E-6
T5 ( net4 net5 0 0)  nfet  L=5.61E-6 W=7.88E-6
R6 ( net4 net2)  R=0.6E3
C7 (net7 net5) C=2.4E-5
R8 (net7 net10) R=8.8E3
R9 (net14 net17) R=2.6E0
T10 (net7 net17 net17 0) nfet L=6.87E-6 W=6.28E-6
C11 (net11 net1) C=6.2E-9
R12 (net2 net8) R=6.5E4
R13 ( net16 net15)  R=0.8E1
T14 ( net15 net15 net1 0)  nfet  L=5.90E-6 W=9.87E-6
T15 ( net1 net17 0 0)  nfet  L=5.90E-6 W=9.87E-6
T16 ( net17 net17 0 0)  nfet  L=5.90E-6 W=9.87E-6
T17 ( net13 net15 net17 0)  nfet  L=5.90E-6 W=9.87E-6
R18 (net13 net16) R=3.2E0
T19 (net13 net11 net11 0) pfet L=5.87E-6 W=0.93E-6
R20 (net12 net9) R=6.8E5
T21 (net2 net11 net11 0) pfet L=8.51E-6 W=7.60E-6
T22 (net6 net14 net14 0) nfet L=3.40E-6 W=9.94E-6
T23 (net10 net11 net11 0) pfet L=0.30E-6 W=3.66E-6
R24 (net7 net2) R=9.2E3
C25 (net14 net10) C=5.4E-5
T26 (net6 net11 net11 0) pfet L=2.13E-6 W=6.27E-6
T27 (net7 net16 net16 0) pfet L=7.32E-6 W=4.14E-6
T28 (net3 net7 net7 0) pfet L=8.17E-6 W=9.34E-6
C29 (net5 net3) C=8.7E-12
R30 (net9 net5) R=3.7E5

