C1 (net6 net20) C=4.7E-9
T2 (net9 net17 net17 0) pfet L=7.39E-6 W=3.84E-6
C3 (0 net8) C=1.4E-13
R4 (net10 net17) R=3.0E4
R5 ( net21 net19)  R=0.1E3
T6 ( net19 net9 0 0)  nfet  L=6.64E-6 W=3.59E-6
T7 ( net1 net9 0 0)  nfet  L=6.64E-6 W=3.59E-6
T8 ( vdd! net19 net9 0)  nfet  L=6.64E-6 W=3.59E-6
T9 (net8 net12 net12 0) nfet L=9.40E-6 W=3.68E-6
T10 (net14 net10 net10 0) pfet L=1.21E-6 W=9.52E-6
C11 (net6 net8) C=7.6E-5
T12 (0 net1 net1 0) pfet L=8.91E-6 W=9.65E-6
T13 ( net8 net8 vdd! vdd!)  pfet  L=3.27E-6 W=0.59E-6
T14 ( net16 net8 vdd! vdd!)  pfet  L=3.27E-6 W=0.59E-6
R15 ( net16 net22)  R=0.9E6
C16 (net17 net10) C=5.0E-9
R17 (net10 net6) R=2.8E3
R18 (net22 net1) R=4.5E3
T19 (net10 net8 net8 0) nfet L=3.80E-6 W=1.22E-6
R20 (net13 net17) R=9.4E2
R21 (net17 net21) R=3.3E1
C22 (vdd! net12) C=9.2E-11

