R1 (net15 net1) R=7.1E1
T2 (net7 net19 net19 0) pfet L=7.20E-6 W=7.37E-6
C3 (net16 net23) C=4.0E-13
T4 (net2 net6 net6 0) nfet L=4.46E-6 W=1.27E-6
C5 (net2 net18) C=9.3E-8
R6 (net13 net18) R=6.6E2
C7 (vdd! net15) C=8.9E-6
T8 (net7 net21 net21 0) nfet L=2.64E-6 W=2.59E-6
T9 (net6 net4 net4 0) nfet L=3.51E-6 W=0.82E-6
T10 (net10 net16 net16 0) pfet L=1.24E-6 W=5.32E-6
R11 (net3 net14) R=8.0E2
R12 (net18 net20) R=7.3E2
R13 (net2 net21) R=9.3E6
R14 (net1 net19) R=0.3E5
T15 (net19 vdd! vdd! 0) pfet L=7.73E-6 W=0.29E-6
T16 (net5 vdd! vdd! 0) pfet L=7.30E-6 W=2.03E-6
T17 (net23 net4 net4 0) nfet L=5.88E-6 W=0.31E-6
T18 (0 net2 net2 0) pfet L=2.22E-6 W=0.48E-6
C19 (net17 net19) C=9.4E-5
T20 (net8 net3 net3 0) pfet L=6.10E-6 W=5.23E-6
T21 (net16 0 0 0) nfet L=7.94E-6 W=0.94E-6
T22 (net17 net15 net15 0) pfet L=7.51E-6 W=0.65E-6
R23 (net8 0) R=7.4E5
C24 (net20 net9) C=1.7E-6
C25 (net3 net10) C=5.1E-8
T26 (net15 net23 net23 0) pfet L=7.03E-6 W=3.20E-6
T27 (net6 net16 net16 0) pfet L=8.79E-6 W=5.04E-6
T28 (net7 net4 net4 0) nfet L=3.97E-6 W=4.50E-6
C29 (vdd! net6) C=9.8E-9
T30 (vdd! net10 net10 0) nfet L=9.34E-6 W=8.20E-6
T31 (net20 net16 net16 0) pfet L=5.65E-6 W=6.79E-6
C32 (net21 net10) C=4.4E-9

