R1 (net3 net1) R=4.7E1
T2 (0 net4 net4 0) nfet L=2.00E-6 W=9.53E-6
T3 (net5 net2 net2 0) nfet L=9.00E-6 W=2.29E-6
C4 (net1 net3) C=5.0E-7
C5 (net5 net2) C=8.6E-14
C6 (net4 net2) C=7.3E-6
T7 (net5 net2 net2 0) pfet L=2.49E-6 W=9.70E-6
T8 (net4 net4 net4 0) pfet L=2.53E-6 W=6.33E-6
R9 (net4 net5) R=3.7E0
C10 (net1 vdd!) C=4.5E-6
T11 (net4 net2 net2 0) nfet L=1.24E-6 W=3.23E-6
T12 (net5 net3 net3 0) pfet L=9.75E-6 W=9.35E-6
C13 (vdd! net3) C=1.7E-12
C14 (net3 net4) C=0.2E-11
C15 (net1 net5) C=2.0E-7
T16 (net5 net3 net3 0) nfet L=3.64E-6 W=9.53E-6
R17 (net2 net1) R=3.8E1
C18 (net2 0) C=2.3E-9
C19 (net3 net1) C=2.4E-5
C20 (net1 net5) C=2.5E-12
R21 (net1 net5) R=8.3E0
R22 (net5 net4) R=0.4E4
C23 (net5 net1) C=8.1E-9
R24 (net2 vdd!) R=0.4E6
R25 (0 net3) R=9.9E2
T26 (net3 net1 net1 0) pfet L=5.43E-6 W=6.85E-6

