T1 (net4 net4 net4 0) nfet L=6.30E-6 W=3.69E-6
T2 (net4 net1 net1 0) pfet L=8.48E-6 W=2.11E-6
T3 (net1 net2 net2 0) pfet L=4.27E-6 W=0.85E-6
T4 (net4 0 0 0) nfet L=9.12E-6 W=8.67E-6
T5 (vdd! net3 net3 0) pfet L=6.36E-6 W=8.94E-6
R6 (net4 net2) R=3.3E2
R7 (net4 net1) R=1.7E4
C8 (net1 net4) C=2.2E-13
R9 (net4 net1) R=7.2E1

