T1 (vdd! net2 net2 0) pfet L=7.38E-6 W=2.53E-6
C2 (net6 0) C=3.4E-13
R3 (0 vdd!) R=3.3E4
C4 (net7 net6) C=9.7E-11
T5 (net6 net1 net1 0) nfet L=9.39E-6 W=3.48E-6
C6 (net2 net4) C=2.8E-6
T7 (net5 net7 net7 0) nfet L=0.10E-6 W=6.09E-6
T8 (net4 net6 net6 0) nfet L=1.49E-6 W=3.07E-6
R9 (0 net6) R=9.6E1

