C1 (net1 0) C=0.4E-6
T2 (net1 net1 net1 0) pfet L=8.97E-6 W=7.09E-6
T3 (net1 net1 net1 0) pfet L=9.79E-6 W=3.53E-6
R4 (net1 vdd!) R=3.6E1
R5 (0 net1) R=5.5E0
T6 (net1 0 0 0) pfet L=7.85E-6 W=8.46E-6
C7 (0 net1) C=8.9E-8
T8 (net1 0 0 0) nfet L=9.60E-6 W=7.86E-6
T9 (net1 net1 net1 0) pfet L=4.67E-6 W=2.15E-6
T10 (net1 net1 net1 0) pfet L=0.67E-6 W=0.60E-6
R11 (net1 0) R=0.6E6
C12 (0 net1) C=7.1E-10
T13 (net1 vdd! vdd! 0) nfet L=4.69E-6 W=3.24E-6
T14 (net1 net1 net1 0) nfet L=8.08E-6 W=5.19E-6
T15 (net1 net1 net1 0) nfet L=5.55E-6 W=8.26E-6
T16 (vdd! net1 net1 0) pfet L=9.41E-6 W=2.73E-6
C17 (vdd! net1) C=3.5E-14
T18 (net1 net1 net1 0) nfet L=3.21E-6 W=0.87E-6
R19 (net1 vdd!) R=2.4E3
R20 (vdd! net1) R=5.9E2
T21 (0 net1 net1 0) nfet L=0.87E-6 W=4.70E-6
R22 (vdd! net1) R=1.6E4
C23 (net1 0) C=2.2E-12

