T1 (0 net10 net10 0) nfet L=0.41E-6 W=9.51E-6
R2 (net11 net27) R=5.0E5
R3 (net22 net28) R=8.8E0
T4 (net22 net22 net22 0) nfet L=6.62E-6 W=5.98E-6
R5 (net21 vdd!) R=8.4E1
T6 (net14 net5 net5 0) nfet L=8.45E-6 W=9.47E-6
R7 (net15 net20) R=4.6E0
T8 (net23 net5 net5 0) pfet L=0.46E-6 W=9.06E-6
C9 (net16 net3) C=3.8E-6
T10 (net27 0 0 0) nfet L=6.43E-6 W=9.64E-6
T11 (net4 net11 net11 0) pfet L=3.25E-6 W=0.87E-6
T12 (0 vdd! vdd! 0) nfet L=6.43E-6 W=4.08E-6
C13 (net20 net11) C=5.7E-13
T14 (net31 vdd! vdd! 0) nfet L=1.15E-6 W=8.10E-6
T15 (net12 net7 net7 0) pfet L=6.10E-6 W=1.39E-6
T16 (net11 net2 net2 0) nfet L=6.90E-6 W=9.23E-6
T17 (net14 net25 net25 0) nfet L=5.85E-6 W=0.44E-6
R18 (net21 net22) R=2.0E4
C19 (net26 net19) C=3.2E-9
C20 (net12 net30) C=9.2E-10
T21 (net9 net11 net11 0) nfet L=7.38E-6 W=5.19E-6
T22 (net1 net12 net12 0) nfet L=2.57E-6 W=0.30E-6
R23 (vdd! net8) R=5.5E4
T24 (net2 net11 net11 0) pfet L=3.04E-6 W=1.83E-6
C25 (net25 net19) C=6.2E-9
R26 (0 net9) R=3.9E4
T27 (net29 vdd! vdd! 0) pfet L=8.24E-6 W=6.00E-6
C28 (net18 net16) C=0.8E-9
R29 (net7 net26) R=6.8E0
T30 (net3 net17 net17 0) pfet L=7.00E-6 W=8.39E-6
T31 (net13 net32 net32 0) nfet L=4.06E-6 W=4.49E-6
R32 (net22 net9) R=1.9E6
T33 (net20 0 0 0) pfet L=3.35E-6 W=2.52E-6
R34 (net19 net31) R=8.7E3
R35 (net7 0) R=3.3E3
T36 (net27 net17 net17 0) nfet L=7.26E-6 W=3.71E-6
T37 (net16 net21 net21 0) nfet L=2.94E-6 W=2.87E-6
C38 (net28 net19) C=5.2E-13
T39 (net7 net18 net18 0) nfet L=4.87E-6 W=0.39E-6
T40 (net29 net10 net10 0) nfet L=9.51E-6 W=5.55E-6
T41 (net28 net22 net22 0) pfet L=2.79E-6 W=2.23E-6
C42 (net7 net24) C=2.8E-7
T43 (net17 net2 net2 0) pfet L=5.25E-6 W=3.17E-6
T44 (net27 0 0 0) nfet L=0.81E-6 W=0.16E-6
R45 (net18 net4) R=1.1E4
C46 (net24 net4) C=3.9E-14
C47 (net15 net21) C=4.1E-9
C48 (vdd! net10) C=4.8E-10
C49 (net17 net22) C=2.8E-10
T50 (net28 net26 net26 0) nfet L=8.84E-6 W=9.14E-6
T51 (net4 net12 net12 0) nfet L=7.28E-6 W=4.15E-6
C52 (0 net3) C=3.2E-9
R53 (net15 net18) R=4.2E4
T54 (net32 net21 net21 0) pfet L=4.63E-6 W=4.16E-6

