T1 (net20 net6 net6 0) nfet L=6.86E-6 W=5.90E-6
C2 (net13 net10) C=4.3E-14
T3 (net21 net9 net9 0) nfet L=3.70E-6 W=7.75E-6
T4 (net13 net19 net19 0) nfet L=5.02E-6 W=4.82E-6
R5 (0 net6) R=9.9E2
T6 (net15 net11 net11 0) nfet L=8.42E-6 W=6.37E-6
C7 (net15 net12) C=8.9E-11
T8 (net12 net21 net21 0) pfet L=5.60E-6 W=4.75E-6
C9 (net11 net4) C=0.4E-12
T10 (net22 net12 net12 0) nfet L=8.69E-6 W=9.66E-6
C11 (net7 net14) C=7.7E-5
R12 (net15 net18) R=2.9E2
T13 (vdd! net16 net16 0) nfet L=7.70E-6 W=5.86E-6
T14 (net7 0 0 0) pfet L=0.79E-6 W=3.14E-6
R15 (vdd! net6) R=7.0E2
R16 (net12 net5) R=4.0E0
R17 (net11 net3) R=2.7E4
T18 (net13 net9 net9 0) pfet L=9.41E-6 W=9.95E-6
R19 (net14 net21) R=7.8E1
T20 (net18 net19 net19 0) nfet L=7.30E-6 W=3.17E-6
T21 (net19 net20 net20 0) pfet L=8.00E-6 W=7.62E-6
C22 (net18 net10) C=6.9E-9
R23 (net4 0) R=4.8E5
T24 (net19 net19 net19 0) pfet L=8.87E-6 W=9.49E-6
T25 (net1 net21 net21 0) pfet L=4.88E-6 W=0.87E-6
T26 (net12 net3 net3 0) pfet L=8.20E-6 W=8.75E-6
T27 (net13 net19 net19 0) pfet L=0.45E-6 W=1.99E-6
R28 (net5 vdd!) R=4.0E0
T29 (net15 vdd! vdd! 0) nfet L=5.49E-6 W=0.78E-6
C30 (net8 net3) C=2.6E-14
T31 (0 net6 net6 0) pfet L=5.69E-6 W=0.35E-6
R32 (net7 net19) R=2.2E4
T33 (net16 net12 net12 0) nfet L=8.69E-6 W=7.77E-6
C34 (net8 net16) C=0.9E-8
C35 (net9 net21) C=3.4E-6
R36 (net20 net19) R=1.3E1
C37 (0 net12) C=0.3E-11
R38 (vdd! net2) R=3.2E1
T39 (net22 net12 net12 0) nfet L=3.27E-6 W=8.42E-6
C40 (net15 net11) C=5.6E-8
R41 (net4 net21) R=5.4E0
R42 (net3 net20) R=3.3E2
C43 (net9 net19) C=9.8E-14
T44 (net12 net19 net19 0) nfet L=3.89E-6 W=2.22E-6
C45 (net13 net5) C=5.7E-5

