C1 (net1 net12) C=7.8E-7
T2 (net3 net16 net16 0) pfet L=2.13E-6 W=0.58E-6
C3 (net16 net20) C=4.1E-10
C4 (net5 net17) C=8.5E-6
R5 (net12 net5) R=3.5E0
R6 (net20 net17) R=2.6E5
T7 (net3 net8 net8 0) pfet L=2.17E-6 W=3.12E-6
C8 (net3 net19) C=1.5E-10
C9 (net6 net19) C=3.3E-14
T10 (0 net7 net7 0) pfet L=6.93E-6 W=8.28E-6
C11 (net7 net16) C=5.5E-11
T12 (net12 net8 net8 0) pfet L=2.23E-6 W=0.64E-6
T13 (net15 net15 net15 0) pfet L=5.52E-6 W=6.57E-6
R14 (net13 net4) R=7.7E1
T15 (net12 net3 net3 0) nfet L=8.46E-6 W=8.25E-6
T16 (net9 net4 net4 0) pfet L=6.60E-6 W=2.59E-6
T17 (net12 net5 net5 0) pfet L=3.29E-6 W=9.38E-6
T18 (net13 net8 net8 0) pfet L=1.33E-6 W=9.38E-6
T19 (net17 net16 net16 0) pfet L=4.70E-6 W=5.13E-6
R20 (net6 net16) R=0.3E1
T21 (net13 0 0 0) nfet L=3.18E-6 W=4.67E-6
T22 (0 net16 net16 0) pfet L=3.63E-6 W=2.55E-6
T23 (net13 net11 net11 0) nfet L=3.75E-6 W=3.50E-6
T24 (net17 vdd! vdd! 0) nfet L=4.79E-6 W=6.15E-6
C25 (0 net2) C=6.4E-6
R26 (net16 net13) R=7.4E5
R27 (net11 net13) R=2.3E0
C28 (0 net11) C=6.5E-14
T29 (net18 net1 net1 0) nfet L=7.68E-6 W=2.48E-6
R30 (net15 net2) R=8.8E4
R31 (vdd! net10) R=9.9E1
R32 (vdd! net16) R=2.8E6
C33 (net5 net6) C=7.0E-10
T34 (net14 net14 net14 0) pfet L=2.43E-6 W=9.21E-6
R35 (vdd! net9) R=7.2E3
C36 (net20 net2) C=1.1E-12
T37 (0 net7 net7 0) nfet L=5.78E-6 W=5.02E-6
T38 (net9 net18 net18 0) pfet L=7.09E-6 W=5.12E-6
C39 (net11 net3) C=1.8E-7
C40 (net16 net2) C=5.7E-13
T41 (net18 net2 net2 0) pfet L=8.29E-6 W=2.73E-6
T42 (net15 net8 net8 0) pfet L=7.30E-6 W=8.88E-6
T43 (net2 net8 net8 0) nfet L=9.58E-6 W=9.48E-6
C44 (net18 net20) C=9.0E-10
C45 (net1 net13) C=5.8E-11
T46 (net14 net8 net8 0) pfet L=8.55E-6 W=3.95E-6
C47 (net13 net8) C=3.0E-9
T48 (net2 net15 net15 0) nfet L=6.91E-6 W=9.31E-6
C49 (net12 net9) C=5.4E-6
C50 (net10 net20) C=4.6E-9
C51 (net9 net7) C=1.4E-14
R52 (0 net18) R=8.1E2
C53 (net4 net11) C=8.4E-12
C54 (net19 net6) C=2.5E-7
R55 (net6 net18) R=4.1E5

