R1 (net13 net5) R=1.9E1
C2 (net8 net1) C=4.5E-14
T3 (net8 net5 net5 0) nfet L=9.97E-6 W=2.59E-6
R4 (net5 net4) R=8.5E4
T5 (net10 net8 net8 0) pfet L=8.25E-6 W=8.57E-6
C6 (net7 net6) C=6.9E-6
T7 (net1 net7 net7 0) nfet L=6.39E-6 W=1.09E-6
R8 (net4 net7) R=5.1E3
T9 (net7 net6 net6 0) nfet L=2.19E-6 W=9.91E-6
T10 (net4 net8 net8 0) nfet L=4.15E-6 W=8.91E-6
T11 (net1 net10 net10 0) pfet L=4.82E-6 W=8.65E-6
T12 (net10 net2 net2 0) pfet L=9.19E-6 W=3.46E-6
T13 (net8 net6 net6 0) nfet L=1.83E-6 W=1.60E-6
T14 (net11 net12 net12 0) nfet L=8.60E-6 W=5.74E-6
R15 (net8 net4) R=4.2E2
C16 (0 vdd!) C=8.7E-10
R17 (net5 net13) R=3.4E1
T18 (net2 net1 net1 0) pfet L=4.52E-6 W=4.55E-6
C19 (net7 net10) C=7.0E-8
T20 (net4 net5 net5 0) nfet L=6.31E-6 W=2.47E-6
T21 (net8 net11 net11 0) nfet L=3.91E-6 W=3.49E-6
C22 (net1 net9) C=7.1E-13
T23 (net11 net10 net10 0) nfet L=9.58E-6 W=3.76E-6
C24 (net6 vdd!) C=6.0E-10
C25 (net10 net13) C=3.0E-13
C26 (net2 net10) C=7.3E-9
R27 (net12 net1) R=8.5E6
T28 (0 net12 net12 0) pfet L=1.55E-6 W=2.05E-6
R29 (net12 net10) R=0.4E1
R30 (net1 net9) R=2.9E5
C31 (net1 net6) C=9.9E-6
T32 (net8 net8 net8 0) nfet L=3.80E-6 W=4.38E-6
C33 (net2 net3) C=4.9E-14
T34 (net13 net3 net3 0) nfet L=9.54E-6 W=6.30E-6
R35 (net11 net1) R=4.9E0
T36 (net4 net2 net2 0) nfet L=0.18E-6 W=5.43E-6

