T1 (vdd! net6 net6 0) nfet L=0.37E-6 W=0.13E-6
T2 (vdd! net9 net9 0) nfet L=9.76E-6 W=2.37E-6
T3 (net5 net5 net5 0) nfet L=8.03E-6 W=2.75E-6
T4 (net8 net3 net3 0) pfet L=2.29E-6 W=3.52E-6
C5 (net1 net6) C=0.3E-9
R6 (net10 net5) R=6.6E0
T7 (net1 net4 net4 0) nfet L=7.74E-6 W=9.84E-6
C8 (net6 net8) C=7.5E-9
R9 (net8 net1) R=8.0E3
T10 (net10 net6 net6 0) nfet L=6.52E-6 W=4.75E-6
T11 (net3 0 0 0) nfet L=3.29E-6 W=0.60E-6
T12 (net4 net3 net3 0) nfet L=1.11E-6 W=4.97E-6
C13 (net9 net4) C=9.7E-8
T14 (vdd! net3 net3 0) pfet L=8.58E-6 W=0.73E-6
T15 (net3 net2 net2 0) nfet L=6.32E-6 W=1.79E-6
R16 (net3 net5) R=0.8E0
C17 (net1 net10) C=0.1E-13
C18 (net5 vdd!) C=0.1E-11
C19 (net4 0) C=6.9E-14
T20 (net2 net3 net3 0) nfet L=1.46E-6 W=8.54E-6
T21 (net4 net1 net1 0) nfet L=0.46E-6 W=4.82E-6
R22 (net5 net10) R=1.5E4
T23 (net1 vdd! vdd! 0) nfet L=5.41E-6 W=4.08E-6
T24 (net5 net7 net7 0) nfet L=5.11E-6 W=4.49E-6
C25 (net1 net2) C=4.6E-6
T26 (net4 net9 net9 0) pfet L=7.80E-6 W=8.74E-6
T27 (net2 net2 net2 0) pfet L=2.44E-6 W=5.27E-6
T28 (net10 net3 net3 0) nfet L=0.53E-6 W=8.80E-6
C29 (net9 net8) C=2.8E-13
T30 (vdd! net3 net3 0) nfet L=8.65E-6 W=6.52E-6
C31 (net7 net3) C=3.9E-12
R32 (net5 net7) R=9.5E5
T33 (net10 net2 net2 0) nfet L=8.17E-6 W=8.09E-6
T34 (0 net4 net4 0) nfet L=3.70E-6 W=0.77E-6

