T1 (net18 net17 net17 0) pfet L=3.64E-6 W=7.81E-6
R2 (net8 net6) R=7.5E2
T3 (net12 net18 net18 0) pfet L=5.30E-6 W=4.33E-6
T4 (net2 net16 net16 0) pfet L=9.87E-6 W=5.12E-6
T5 (net9 net16 net16 0) pfet L=1.35E-6 W=9.76E-6
T6 (net15 net4 net4 0) nfet L=4.24E-6 W=6.56E-6
R7 (net10 net1) R=2.3E4
T8 (net1 net16 net16 0) pfet L=5.25E-6 W=5.97E-6
R9 (net16 net17) R=8.1E0
C10 (net8 net7) C=1.5E-10
R11 (net12 net18) R=3.9E0
T12 (net10 net14 net14 0) pfet L=0.50E-6 W=4.95E-6
R13 (0 net1) R=8.3E3
T14 (net11 net3 net3 0) nfet L=4.97E-6 W=0.80E-6
R15 (net9 net10) R=9.3E5
T16 (net3 net16 net16 0) pfet L=4.10E-6 W=3.54E-6
C17 (net1 net15) C=6.4E-12
T18 (net5 net15 net15 0) nfet L=7.18E-6 W=9.61E-6
R19 (net11 net18) R=2.9E1
R20 (net5 vdd!) R=0.9E5
T21 (net2 net6 net6 0) pfet L=7.47E-6 W=1.68E-6
C22 (net13 net11) C=1.2E-8
R23 (net16 net11) R=8.3E0
C24 (net13 net19) C=3.7E-6
R25 (net8 net15) R=6.8E3
T26 (vdd! net17 net17 0) pfet L=3.65E-6 W=2.38E-6
T27 (net7 net9 net9 0) nfet L=1.92E-6 W=5.47E-6
C28 (net1 net3) C=6.9E-13
T29 (net7 0 0 0) nfet L=8.33E-6 W=6.99E-6
R30 (vdd! net12) R=4.6E5
R31 (net3 net13) R=5.1E1
C32 (net7 net16) C=7.5E-9
R33 (net9 net18) R=7.2E3
T34 (net12 net13 net13 0) nfet L=1.09E-6 W=8.06E-6
C35 (net1 vdd!) C=5.3E-11
T36 (net2 net9 net9 0) pfet L=7.27E-6 W=6.32E-6
T37 (net12 net1 net1 0) pfet L=1.74E-6 W=2.80E-6
T38 (net19 net7 net7 0) nfet L=6.76E-6 W=0.39E-6
R39 (net1 net12) R=2.8E2
R40 (net18 net9) R=0.7E1

