T1 (net2 net1 net1 0) pfet L=4.48E-6 W=3.83E-6
T2 (net9 net9 net9 0) pfet L=6.53E-6 W=4.76E-6
R3 (net8 net4) R=1.3E1
T4 (net1 net8 net8 0) pfet L=0.27E-6 W=6.46E-6
T5 (vdd! net1 net1 0) pfet L=5.83E-6 W=1.46E-6
T6 (net3 net5 net5 0) pfet L=0.39E-6 W=3.86E-6
T7 (net6 net7 net7 0) pfet L=8.14E-6 W=0.51E-6
R8 (net7 net1) R=3.3E6
T9 (net6 net3 net3 0) pfet L=7.78E-6 W=5.07E-6
T10 (net7 net2 net2 0) pfet L=9.94E-6 W=9.95E-6
R11 (net6 net1) R=3.8E0
T12 (net10 net4 net4 0) pfet L=5.63E-6 W=6.95E-6
C13 (net1 net4) C=9.7E-11
C14 (net8 net7) C=4.2E-11
C15 (vdd! net3) C=8.2E-9
R16 (net4 0) R=0.3E1
T17 (net9 net3 net3 0) nfet L=1.83E-6 W=4.08E-6
C18 (net5 net9) C=6.3E-7
C19 (net4 net9) C=1.0E-11
T20 (net3 net5 net5 0) nfet L=1.66E-6 W=4.54E-6
R21 (net8 net7) R=1.2E2
R22 (net2 net1) R=3.2E2
T23 (net5 net5 net5 0) pfet L=7.79E-6 W=1.74E-6
C24 (net3 vdd!) C=2.4E-5
C25 (0 net6) C=8.4E-12
C26 (net10 net5) C=3.6E-5
C27 (net10 net7) C=6.5E-12
T28 (net3 net5 net5 0) pfet L=7.61E-6 W=7.79E-6
R29 (net9 net6) R=5.4E1
R30 (net4 net10) R=4.1E6
R31 (net8 net10) R=8.0E4
T32 (net8 net3 net3 0) nfet L=6.39E-6 W=8.42E-6
C33 (net9 net4) C=4.7E-13
T34 (net9 net7 net7 0) pfet L=2.24E-6 W=5.07E-6
R35 (net5 net10) R=1.4E1

